US05316755
1-(2,4,6-Triiodophenoxy)-3-octyne
A mixture of triiodophenol (1.0 g, 2.1 mmol) and potassium carbonate (0.35 g, 2.54 mmol, 1.2 eq) in 4 ml of dimethylformamide was heated at 70° C. for 1 hr and then cooled to room temperature. 1-bromo-3-octyne was added in a single portion and the mixture was stirred for 1 hr. The reaction mixture was poured into water and the precipitated solids were collected by filtration. The collected solid was recrystallized from methanol to give 0.39 g (32%) of desired product. Mp 45° C.-49° C.

reactant | triiodophenol | 2.1 mmol, 1.0 g | C=1C(=CC(=C(C1I)O)I)I | C6H3I3O
reactant | potassium carbonate | 2.54 mmol, 0.35 g, 1.2 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-octyne | BrCCC#CCCCC | C8H13Br
reactant | water | O | H2O
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 1-(2,4,6-Triiodophenoxy)-3-octyne | 0.39 g, 32% | IC1=C(OCCC#CCCCC)C(=CC(=C1)I)I | C14H15I3O
